US06660753B2
A mixture of 5-[3-trifluoromethanesulfonylphenyl]-3-[pyridin-2-yl]-1,2-oxazole (98 mg, 0.26 mmol), KCN (230 mg, 4 mmol), NiBr2(PPh3)2 (52.4 mg, 0.07 mmol), and PPh3 (42 mg, 0.16 mmol) in acetonitrile (1 mL) was treated with zinc powder (20 mg, 0.3 mmol) and the mixture was heated overnight at 60° C. Silica gel chromatography of the resulting mixture using a gradient of hexane to ethyl acetate afforded 15 mg (23%) of 5-[3-cyanophenyl]-3-[pyridin-2-yl]-1,2-oxazole as a white solid.

reactant | 5-[3-trifluoromethanesulfonylphenyl]-3-[pyridin-2-yl]-1,2-oxazole | 0.26 mmol, 98 mg | FC(S(=O)(=O)C=1C=C(C=CC1)C1=CC(=NO1)C1=NC=CC=C1)(F)F | C15H9F3N2O3S
reactant | KCN | 4 mmol, 230 mg | [C-]#N.[K+]
reactant | PPh3 | 0.16 mmol, 42 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | zinc | 0.3 mmol, 20 mg | [Zn] | Zn
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[3-cyanophenyl]-3-[pyridin-2-yl]-1,2-oxazole | 15 mg, 23% | C(#N)C=1C=C(C=CC1)C1=CC(=NO1)C1=NC=CC=C1 | C15H9N3O
